### PR TITLE
Proved a property expanding on the relation between inject+, raise and splitAt

### PR DESCRIPTION
**Pull request by MirceaS**
Proved a property which can be seen as an inversion of the 2 properties already proven above it, that relates `inject+`, `raise` and `splitAt` for Finite Integers.
I also added another simple identity to Sum.Properties that I needed to complete the proof and that I feel belongs there as well.
In addition to those I changed `[_,_]′` to `[_,_]` in `[,]-map-commute` (previously added by me as part of PR #993) because it looks nicer without changing the behaviour of the function. (`[_,_]′` is just a more specialised version of `[_,_]` but Agda can figure out that on it's own in the case of `[,]-map-commute`).

### CODE REVIEW

File: src/Data/Fin/Properties.agda [hunk 1]
```diff
@@ -426,6 +427,16 @@ splitAt-raise : ∀ m n i → splitAt m (raise {n} m i) ≡ inj₂ i
 splitAt-raise zero n i = refl
 splitAt-raise (suc m) n i rewrite splitAt-raise m n i = refl
 
+inject+-raise-splitAt : ∀ m n i → [ inject+ n , raise {n} m ] (splitAt m i) ≡ i
+inject+-raise-splitAt zero n i = refl
+inject+-raise-splitAt (suc m) n zero = refl
+inject+-raise-splitAt (suc m) n (suc i) = begin
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda]: Really minor I know, but any chance we could align these arguments?

**Comment by MatthewDaggitt** [comment]
Oh and a changelog entry please :heart: . This slipped my mind the first time I looked at it, apologies!

**Comment by MirceaS** [comment]
> Oh and a changelog entry please ❤️ . This slipped my mind the first time I looked at it, apologies!

I was writing it while you commented that :)

**Comment by MirceaS** [comment]
Should be ready for merge now, right?
